US06201006B1
Synthesis of 2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]piperidyl]carbonyl]pyrrolidinyl]acetic acid (Compound 89)
In a 50 ml flask; 140 mg of ethyl 2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]piperidyl]carbonyl]pyrrolidinyl]acetate was dissolved in 10 ml of ethanol, and 0.5 ml of 2N NaOH was added thereto. The reaction solution was stirred for 3 hours at room temperature and evaporated under reduced pressure to remove the solvent. The residue was purified with column choromatography [eluent: ethyl acetate/methanol (1:1)] on NH-DM1020 silica to obtain 60 mg of the title compound as a yellowish white solid.

reactant | ethyl 2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]piperidyl]carbonyl]pyrrolidinyl]acetate | 140 mg | C(N)(=N)C1=CC=C2C=C(N(C2=C1)CC)CC[C@H]1N(CCCC1)C(=O)[C@@H]1N(CCC1)CC(=O)OCC | C27H39N5O3
reactant | NaOH | 2N, 0.5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]piperidyl]carbonyl]pyrrolidinyl]acetic acid | 60 mg | C(N)(=N)C1=CC=C2C=C(N(C2=C1)CC)CC[C@H]1N(CCCC1)C(=O)[C@@H]1N(CCC1)CC(=O)O | C25H35N5O3
